US05364856
Preparation of (-)(4R)-6-(3-pyridyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole
A solution of 1.0 g (2.99 mmol) of (2aR,4S)-6-(3-pyridyl)-4-(di-n-propylamino)-1,2,2a,3,4,5hexahydrobenz[cd]indole and 1.0 g (9 mmol) of indole in 50 ml of THF was treated at 0° C. with 0.61 g (1.70 mmol) of benzeneseleninic anhydride. The resulting solution was allowed to warm to room temperature. After 2 hours the reaction solution was diluted with water and the product was extracted into methylene chloride. The methylene chloride was evaporated and the resulting residue was taken up in aqueous tartaric acid. This acidic solution was washed with methylene chloride, then basified with 5M sodium hydroxide solution. The product was extracted into methylene chloride. After evaporating the methylene chloride the product was chromatographed over 25 g of silica gel using 10% ethyl acetate in toluene followed by 1:1 ethyl acetate/toluene as eluent. The material from the column was crystallized from toluene/hexane to afford 0.53 g of title compound.

reactant | (2aR,4S)-6-(3-pyridyl)-4-(di-n-propylamino)-1,2,2a,3,4,5hexahydrobenz[cd]indole | 2.99 mmol, 1.0 g | N1=CC(=CC=C1)C1=C2C=3[C@H](CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C22H29N3
reactant | indole | 9 mmol, 1.0 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | benzeneseleninic anhydride | 1.70 mmol, 0.61 g | C1(=CC=CC=C1)[Se](=O)O[Se](=O)C1=CC=CC=C1 | C12H10O3Se2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (-)(4R)-6-(3-pyridyl)-4-(di-n-propylamino)-1,3,4,5-tetrahydrobenz[cd]indole | 0.53 g | N1=CC(=CC=C1)C1=C2C=3C(=CNC3C=C1)C[C@@H](C2)N(CCC)CCC | C22H27N3
